US07053089B2
To a solution of tert-butyl diethylphosphonoacetate (1.12 mL, 4.76 mmol) in THF (5 mL) at −78° C. was added LHMDS (1.0M in THF, 4.76 mL, 4.76 mmol). After 5 min at −78° C. 5-methyl-2-thiophene-carboxaldehyde (0.43 mL, 3.96 mmol) was added. The reaction mixture was warmed to RT, stirred for 10 min and poured onto EtOAc/H2O. The layers were separated and the organic layer was washed with H2O, dried over Na2SO4, filtered and concentrated. The residue was chromatographed on silica (gradient elution; hexanes to 4:1 hexanes:EtOAc) to give tert-butyl (2E)-3-(5-methylthien-2-yl)prop-2-enoate as a clear oil.

reactant | tert-butyl diethylphosphonoacetate | 4.76 mmol, 1.12 mL | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | LHMDS | 4.76 mmol, 1.0M, 4.76 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 5-methyl-2-thiophene-carboxaldehyde | 3.96 mmol, 0.43 mL | CC1=CC=C(S1)C=O | C6H6OS
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl (2E)-3-(5-methylthien-2-yl)prop-2-enoate | CC1=CC=C(S1)/C=C/C(=O)OC(C)(C)C | C12H16O2S
